US08455500B2
<Step 1> Synthesis of 1-[3-(4-bromo-3,5-dimethylphenoxy)propyl]pyrrolidin-2-one
According to the method of (Example 36) <Step 7>, from 1-(3-hydroxypropyl)pyrrolidin-2-one (3.8 mL) and 4-bromo-3,5-dimethylphenol (5.0 g), a crude product (14.6 g) containing the subject compound was obtained.

reactant | 1-(3-hydroxypropyl)pyrrolidin-2-one | 3.8 mL | OCCCN1C(CCC1)=O | C7H13NO2
reactant | 4-bromo-3,5-dimethylphenol | 5.0 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
product | 1-[3-(4-bromo-3,5-dimethylphenoxy)propyl]pyrrolidin-2-one | BrC1=C(C=C(OCCCN2C(CCC2)=O)C=C1C)C | C15H20BrNO2
